US09145441B2
Compound 87d. (E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid
A solution of acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester (555.4 mg, 1.888 mmol), 2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid (488.0 mg, 1.888 mmol), palladium(II)acetate (85 mg, 0.378 mmol), tri(o-tolyl)phosphine (115 mg, 0.378 mmol) and N,N-dicyclohexylmethylamine (1.0 mL, 4.720 mmol) in anhydrous 1,4-dioxane (15 mL) was heated at reflux for 2 h. After cooling to warm temperature the reaction was quenched with hydrochloric acid (1 M, 30 mL). The aqueous layer was extracted with ethyl acetate (2×). The combined organics were dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to afford the title compound (252.7 mg, 28%) as a yellow solid along with a 1:3 mixture of 2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid and acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester (474.6 mg) which was dissolved in anhydrous 1,4-dioxane (10 mL), treated with palladium(II)acetate (85 mg, 0.378 mmol), tri(o-tolyl)phosphine (115 mg, 0.378 mmol) and N,N-dicyclohexylmethylamine (1.0 mL, 4.720 mmol) and heated at reflux for 5 h. After cooling to room temperature the mixture was quenched with hydrochloric acid (1 M, 20 mL). The aqueous layer was extracted with ethyl acetate (2×). The combined organics were dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to afford the title compound (149.6 mg, 17%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 0.12 (s, 3H), 0.15 (s, 3H), 0.93 (s, 9H), 1.25 (d, J=6.0 Hz, 3H), 1.69 (d, J=6.7 Hz, 3H), 2.18 (s, 3H), 2.51 (s, 3H), 4.14 (q, J=6.2 Hz, 1H), 6.08 (q, J=6.7 Hz, 1H), 6.74 (ABq, ΔδAB=0.12, JAB=16.7 Hz, 2H), 7.44 (d, J=8.5 Hz, 1H), 7.64-7.70 (m, 1H), 7.76 (d, J=8.7 Hz, 1H), 8.03 (s, 1H), 8.12 (d, J=8.5 Hz, 1H). LCMS (m/z) 472.2 [M+H], Tr=3.61 min.

reactant | acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester | 1.888 mmol, 555.4 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O | C13H12BrNO2
reactant | 2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid | 1.888 mmol, 488.0 mg | C(C)(C)(C)[Si](OC(C)C(C(=O)O)(C=C)C)(C)C | C13H26O3Si
reactant | tri(o-tolyl)phosphine | 0.378 mmol, 115 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-dicyclohexylmethylamine | 4.720 mmol, 1.0 mL | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II)acetate | 0.378 mmol, 85 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid | 252.7 mg, 28% | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C(C)O[Si](C)(C)C(C)(C)C | C26H37NO5Si
